US06156700
Preparation of 2'-Chloro-2-methyl-2-carboethoxy propiophenone
A mixture of 2-chlorobenzoyl chloride (52.2 g, 0.298 mol), ethyl 2-bromoisobutyrate (58.2 g, 0.298 mol) and ether is added in portions to zinc foil (19.5 g, 0.298 mol) and the resultant mixture stirred at reflux for three hours and overnight at room temperature. The mixture is poured into cold, dilute sulfuric acid and the organic layer is washed with saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to a yellow oil. The oil is chromatographed on silica gel with hexanes:ethyl acetate to afford the title compound as a colorless oil (41.8 g, 55.1%).

reactant | 2-chlorobenzoyl chloride | 0.298 mol, 52.2 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | ethyl 2-bromoisobutyrate | 0.298 mol, 58.2 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | zinc | [Zn] | Zn
solvent | ether | CCOCC | C4H10O
product | 2'-Chloro-2-methyl-2-carboethoxy propiophenone | 41.8 g, 55.1% | ClC1=C(C=CC=C1)C(C(C)(C(=O)OCC)C)=O | C13H15ClO3
